US04609666
4-[(2,4-Dichlorophenyl)phenylmethyl]-1H-pyrazole
Two grams of [(2,4-dichlorophenyl)phenylmethyl]malonaldehyde in 10 ml of ethanol were heated with 3 ml of anhydrous hydrazine on a steam bath for two hours. The reaction mixture was poured into water and extracted with ether. The ether extract was dried, filtered, and evaporated. The residue was crystallized twice from Skelley B/acetone to provide 1.2 g of the desired title product, m.p. 131° C.

reactant | [(2,4-dichlorophenyl)phenylmethyl]malonaldehyde | Two grams | ClC1=C(C=CC(=C1)Cl)C(C1=CC=CC=C1)C(C=O)C=O | C16H12Cl2O2
reactant | hydrazine | 3 ml | NN | H4N2
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[(2,4-Dichlorophenyl)phenylmethyl]-1H-pyrazole | 1.2 g | ClC1=C(C=CC(=C1)Cl)C(C=1C=NNC1)C1=CC=CC=C1 | C16H12Cl2N2
